US06949648B2
Diethyl 2-([[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]methylene)malonate
A mixture of diethyl ethoxymethylenemalonate (32.5 g, 0.15 mol) and 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine (23.8 g, 0.137 mol) was heated under reflux at 120° C. for 1 hour. After the mixture was allowed to cool to room temperature, the reaction solvent was evaporated under reduced pressure. The crude crystals thus obtained were filtered and washed with diethylether to give the title compound (45 g, 96% yield).

reactant | diethyl ethoxymethylenemalonate | 0.15 mol, 32.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine | 0.137 mol, 23.8 g | CC1=NN(C(=C1)N)C1=NC=CC=C1 | C9H10N4
product | Diethyl 2-([[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]methylene)malonate | 45 g, 96% yield | CC1=NN(C(=C1)NC=C(C(=O)OCC)C(=O)OCC)C1=NC=CC=C1 | C17H20N4O4
